US07365095B2
Treatment of (2R)-2-(azidomethyl)-8-(biphenyl-2-yl)-6-fluorochroman (0.85 g, 2.36 mmol) with polymer-bound triphenylphosphine (3 mmol/g, 1.02 g, 3.06 mmol) in THF (30 mL) and water (2 mL) according to the procedure described for Example Cl-Me provided 0.46 g (52%) of ((2R)-8-(biphenyl-2-yl)-6-fluorochroman-2-yl)methanamine hydrochloride as an off-white solid salt, mp 98° C.; MS (ESI) m/z 334.2 [M+H]+; [α]D25=−27.00° (c=1% SOLN, MeOH).

reactant | (2R)-2-(azidomethyl)-8-(biphenyl-2-yl)-6-fluorochroman | 2.36 mmol, 0.85 g | N(=[N+]=[N-])C[C@@H]1OC2=C(C=C(C=C2CC1)F)C1=C(C=CC=C1)C1=CC=CC=C1 | C22H18FN3O
reactant | triphenylphosphine | 3.06 mmol, 1.02 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Cl-Me | ClC | CH3Cl
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | water | 2 mL | O | H2O
product | ((2R)-8-(biphenyl-2-yl)-6-fluorochroman-2-yl)methanamine hydrochloride | 0.46 g, 52% | Cl.C1(=C(C=CC=C1)C=1C=C(C=C2CC[C@@H](OC12)CN)F)C1=CC=CC=C1 | InChI=1S/C22H20FNO.ClH/c23-17-12-16-10-11-18(14-24)25-22(16)21(13-17)20-9-5-4-8-19(20)15-6-2-1-3-7-15;/h1-9,12-13,18H,10-11,14,24H2;1H/t18-;/m1./s1
